Part 2
***************************************************************
*GLOBAL INCLUDES
***************************************************************
*Standard include
.include '/usr/class/ee313/ee313_spice_header.h'

*Specific include
.include '~/ee313/netlist/projectPart2.testrig_blocked_wordline_4.ckt'
***************************************************************
*PARAMETERS
***************************************************************

*Defined parameters for stimulus
.param supply = 0.7v
.param tcyc = 1ns *1Ghz clock
.param trf = 50ps *50ps rise/fall time

*Set up all transitor sizes for decoder
.param pd24s1pw = 7
.param pd24s1nw = 5
.param pd24s2pw = 13
.param pd24s2nw = 5
.param pd416s3pw = 9
.param pd416s3nw = 5
.param pd416s4pw = 12
.param pd416s4nw = 5
.param pd416s5pw = 12
.param pd416s5nw = 5
.param pd416s6pw = 30
.param pd416s6nw = 10
.param dss7pw = 9
.param dss7nw = 5
.param dss8pw = 18
.param dss8nw = 7
.param bds9pw = 27
.param bds9nw = 13
.param bds10pw = 50
.param bds10nw = 7

.param blpcwidth=80

*Setup wordline voltage mux widths
.param wrenpwvdd=100
.param wrenpwwl=100
.param vdd_wr_value='Supply*0.8'

***************************************************************
*INITIAL CONDITIONS
***************************************************************

*Top left stores 1 (WL0BL0)
.ic v(xarray.xmctl.bit) = 'Supply'
.ic v(xarray.xmctl.bit_b) = 0
*Bottom right stores 1 (WL255BL63)
.ic v(xarray.xmcbr.bit) = 'Supply'
.ic v(xarray.xmcbr.bit_b) = 0
*Top right stores 0 (WL0BL63)
.ic v(xarray.xmctr.bit) = 0
.ic v(xarray.xmctr.bit_b) = 'Supply'
*Bottom left stores 0  (WL255BL0)
.ic v(xarray.xmcbl.bit) = 0
.ic v(xarray.xmcbl.bit_b) = 'Supply'

.ic v(bl0) = 'Supply'
.ic v(bl_b0) = 'Supply'
.ic v(bl63) = 'Supply'
.ic v(bl_b63) = 'Supply'

***************************************************************
*SOURCES AND STIMULI
***************************************************************

*clock and address stuff
.include './stimulus.sp'

*Ideal sources for sense amp and bitline precharge
*          	pulse v_initial v_final  t_delay t_rise t_fall t_pulse_width t_period
*Vblpc_b blpc_b Gnd pulse 'Supply'     0       0.45ns    50ps   50ps     450ps         1ns
*Vsapc_b sapc_b Gnd pulse 'Supply'     0       0.45ns      50ps   50ps     450ps         1ns

*Always read 0 and 63
*Vsel_b0 sel_b0 Gnd   pulse 'Supply'     0    1.1ns    50ps   50ps     450ps         1ns
*Vsel_b63 sel_b63 Gnd pulse 'Supply'     0    1.1ns    50ps   50ps     450ps         1ns

*SAE signal
*Vsae sae Gnd         pulse 0    'Supply'    1.16ns    50ps   50ps     450ps         1ns

*Don't write any data
*Vwren wren Gnd dc=0
Vwren wren Gnd pulse 0 'Supply' 8.5ns 50ps 50ps 4ns 12ns
Vwrdata0 wrdata0 Gnd dc=0
Vwrdata255 wrdata255 Gnd dc='Supply'

*Add in vdd_wr and Vcell
Vvdd_wr vdd_wr Gnd dc='Supply*0.8'
Vvcell  Vcell  Gnd dc='Supply*0.9'

*Blocked Wordline Control Signals 
Vblock0 block0 Gnd   pulse 0     'Supply'    0.5ns    50ps   50ps     2ns         4ns
Vblock3 block3 Gnd   pulse 'Supply'    0    0.5ns     50ps   50ps     2ns         4ns

*********************************
* MEASURE JUNK
*********************************
*for perl read script
.meas tran max_bit_b max v(xarray.xmctl.bit_b)


.meas wl0_rise 
+ TRIG v(ck) 	val=supply/2	RISE=1 
+ TARG v(b0wl0) val=supply/2 	RISE =1

.meas wl0_width
+TRIG v(b0wl0_sw) val=vdd_wr_value/2 RISE=1
+TARG v(b0wl0_sw) val=vdd_wr_value/2 FALL=1

.meas wl0_fall 
+ TRIG v(ck) 	val=supply/2	FALL=1 
+ TARG v(b0wl0) val=supply/2 	FALL=1

.meas wl1_rise 
+ TRIG v(ck) 	val=supply/2	RISE=2
+ TARG v(b0wl255) val=supply/2 	RISE =1

.meas wl1_fall
+ TRIG v(ck) 	val=supply/2	FALL=2 
+ TARG v(b0wl255) val=supply/2 	FALL=1

.meas tran bl0_split MAX V(bl0,bl_b0) from=0.5ns to=1.5ns
.meas tran bl1_split MAX v(bl_b63,bl63) from=0.5ns to=1.5ns

.meas bl_pc_overlap
+ TRIG v(blpc_b) val=supply/2 FALL=1
+ TARG v(b0wl0) val=supply/2 FALL=1

.meas bl63_pc_overlap
+ TRIG v(blpc_b) val=supply/2 FALL=2
+ TARG v(b0wl255) val=supply/2 FALL=1

.meas clk-out0
+ TRIG v(ck) val=supply/2 RISE=1
+ TARG v(out0) val=supply/2 RISE=1

.meas precharge
+ TRIG v(blpc_b) val=supply/2 FALL=2
+ TARG v(bl_b0) val=.95*supply RISE=2

.meas sae-out0
+ TRIG v(sae) val=supply/2 RISE=1
+ TARG v(out0) val=supply/2 RISE=1

.meas out0-width
+ TRIG v(out0) val=supply/2 RISE=1
+ TARG v(out0) val=supply/2 FALL=1

.probe idsat=par('i(xarray.xmctl.m0)')

.meas TRAN idsat_avg
+ AVG i (xarray.xmctl.m0) FROM='2*tcyc' TO='3*tcyc'

.meas TRAN write_core_power
+ AVG i (V_supply) FROM='2*tcyc' TO='3*tcyc'

.meas TRAN vcell_power
+ AVG i (Vvcell) FROM='2*tcyc' TO='3*tcyc'

.MEASURE mem_core_power param='write_core_power+vcell_power'


***************************************************************
*ANALYSIS
***************************************************************

*actually run the simulation
.trans 0.3ps 5ns

.end
